US04908481
(c) Preparation of 1-(4-hydroxy-phenyl)-butan-3-one
100 g (0.45 mole) of 1-(4-tert.-butoxy-phenyl)-butan-3-one are suspended in 250 ml of 2N sulfuric acid and the mixture is refluxed for about 3 hours, with vigorous stirring. The course of the reaction can be followed by measuring the isobutylene liberated. After completion of the reaction, the mixture is cooled to room temperature and brought to pH 6 with dilute sodium hydroxide solution, after which the product crystallizes out in about 95% purity. It is isolated by filtering off or centrifuging (73 g of 95% pure material; yield 93%), and is recrystallized from water/ethanol.

reactant | 1-(4-tert.-butoxy-phenyl)-butan-3-one | 0.45 mole, 100 g | C(C)(C)(C)OC1=CC=C(C=C1)CCC(C)=O | C14H20O2
reactant | isobutylene | CC(C)=C | C4H8
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 2N, 250 ml | S(O)(O)(=O)=O | H2O4S
product | 1-(4-hydroxy-phenyl)-butan-3-one | yield 93% | OC1=CC=C(C=C1)CCC(C)=O | C10H12O2
